US09290485B2
b) {5-[({1-[4-(2,5-Dioxo-pyrrolidin-1-ylmethyl)-benzyl]-1H-pyrazole-4-carbonyl}-amino)-methyl]-4,6-dimethyl-pyridin-2-yl}-carbamic acid tert-butyl ester
A mixture of [5-({[1-(4-Chloromethyl-benzyl)-1H-pyrazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester (67 mg, 0.1 mmol), succinimide (12 mg, 0.1 mmol) and potassium carbonate (84 mg, 0.6 mmol) in 50 mL acetone was stirred at 80° C. for 24 h. The mixture was filtrated and concentrated in vacuo. The crude was purified by preparative HPLC (Waters Sunfire Prep C18 PBD 5 um, 30×100 mm, 5 to 100% ACN and 0.1% TFA, flow 40ml/min) to yield the title compound. LCMS (method A) RtA=1.339 min; [M+H]+=547.2.

reactant | [5-({[1-(4-Chloromethyl-benzyl)-1H-pyrazole-4-carbonyl]-amino}-methyl)-4,6-dimethyl-pyridin-2-yl]-carbamic acid tert-butyl ester | 0.1 mmol, 67 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)CCl)C)=O | C25H30ClN5O3
reactant | succinimide | 0.1 mmol, 12 mg | C1(CCC(N1)=O)=O | C4H5NO2
reactant | potassium carbonate | 0.6 mmol, 84 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | {5-[({1-[4-(2,5-Dioxo-pyrrolidin-1-ylmethyl)-benzyl]-1H-pyrazole-4-carbonyl}-amino)-methyl]-4,6-dimethyl-pyridin-2-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)CN1C(CCC1=O)=O)C)=O | C29H34N6O5
